US05500408
In a stainless steel vessel, 5.31 g of 3-chloro-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole and 100 ml of 40% aqueous methylamine solution were placed. After sealing the vessel, the solution was stirred at 120° C. for 12 hours. After allowing to cool, the mixture was poured into water and was extracted with ether. The ether layer was washed three times with water and three times with saturated aqueous sodium chloride solution. The resultant was then dried over anhydrous sodium sulfate and then the resultant was concentrated, followed by purification by silica gel column chromatography to obtain 2.55 g of 3-(2,6-dichlorophenyl)-4-methylamino-1,2,5-thiadiazole.

reactant | 3-chloro-4-(2,6-dichlorophenyl)-1,2,5-thiadiazole | 5.31 g | ClC1=NSN=C1C1=C(C=CC=C1Cl)Cl | C8H3Cl3N2S
reactant | methylamine | 100 ml | CN | CH5N
solvent | water | O | H2O
product | 3-(2,6-dichlorophenyl)-4-methylamino-1,2,5-thiadiazole | 2.55 g | ClC1=C(C(=CC=C1)Cl)C1=NSN=C1NC | C9H7Cl2N3S
